Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization:
PCI with drug-eluting stent of the LAD coronary artery.

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:33AM BLOOD WBC-6.5 RBC-4.79 Hgb-13.9 Hct-42.8 MCV-89 
MCH-29.0 MCHC-32.5 RDW-12.9 RDWSD-42.3 Plt ___
___ 07:33AM BLOOD ___ PTT-29.0 ___
___ 07:33AM BLOOD Glucose-106* UreaN-16 Creat-1.0 Na-140 
K-4.5 Cl-103 HCO3-26 AnGap-11
___ 07:33AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.1

IMAGING/STUDIES:
================
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A 6 ___ EBU3.5 guide provided adequate 
support. Crossed with a Runthrough wire into the distal LAD. 
Predilated with a 2.5 mm NC balloon and then deployed a 3.0 x 38 
mm Promus ___ with a 3.5 mm NC balloon. Final 
angiography revealed normal flow, no dissection and 0% residual 
stenosis. IVUS prior to post-dilation shoewed 3.3-3.5 mm vessel 
diameter with good stent expansion.

DISCHARGE LABS:
===============
As above. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] Follow up with PCP for checkup after discharge 
[ ] Follow up with cardiologist Dr. ___ recent ___, 
___, and HTN med adjustment
[ ] TTE as outpatient post discharge
[ ] Patient was hypertensive during hospital stay, increased 
dose of metoprolol to 50mg QD, as lisinopril/amlodipine already 
maxed.

SUMMARY:
========
Mr. ___ is a ___ male patient with a history of HTN, HLD 
and CAD s/p BMS to LAD in ___ who developed progressive 
exertional chest pain over the last month and presented to the 
hospital on ___ for chest pain that was not relieved 
with rest with labs showing elevated troponin levels w/ normal 
EKG findings suggestive of an ___. Catheterization was 
performed and showed a re-stenosis of his existing BMS, which 
was ballooned w/ ___ and initiation of DAPT. Patient 
tolerated the procedure well without complication and was 
cleared by physical therapy to return home w/ plan to follow up 
with PCP and cardiology.

===============  
ACTIVE ISSUES:  
===============  
___:
#CAD
Patient presented with exertional, substernal CP of 1 month 
duration that was initially relieved by rest, but became 
persistent on the day of presentation. Was found to have 
elevated troponins at OSH and subsequently transferred to ___ 
where catheterization and placement of DES was performed. 
Started on aspirin and Plavix w/ plan for ___ month course. 

PCI details below: 
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad
hoc basis based on the coronary angiographic findings from the 
diagnostic portion of this procedure. A 6
___ EBU3.5 guide provided adequate support. Crossed with a 
Runthrough wire into the distal LAD.
Predilated with a 2.5 mm NC balloon and then deployed a 3.0 x 38 
mm Promus ___ with a
3.5 mm NC balloon. Final angiography revealed normal flow, no 
dissection and 0% residual stenosis.
IVUS prior to post-dilation showed 3.3-3.5 mm vessel diameter 
with good stent expansion.

================  
CHRONIC ISSUES:  
================  
#Depression:
Continued home sertraline and bupropion.

#HTN:
Continued home metoprolol, amlodipine, and lisinopril initially; 
however, his BP was persistently 140-150s and due to him being 
maxed out on amlodipine and lisinopril, a decision was made to 
increase his metoprolol to 50mg QD for discharge.

#HLD:
Continued home statin.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO DAILY 
2. BuPROPion 100 mg PO BID 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*2 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*2 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  amLODIPine 10 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  BuPROPion 100 mg PO BID  
7.  Lisinopril 40 mg PO DAILY  
8.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were in the hospital for chest pain and a blockage in your 
heart.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a procedure called a heart catheterization that showed 
a blockage in your heart.
- A stent was placed to open up the blockage and increase blood 
supply to your heart.
- You were started on new medications for the stent that was 
placed.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
- If you have any symptoms of chest pain similar to what you 
experienced, you should not hesitate to contact your 
cardiologist or come back to the hospital. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team 
 
Followup Instructions:
___